US09212190B2
To a solution of tert-butyl N-(4-aminocyclohexyl)carbamate (1.07 g, 4.99 mmol, 1.00 equiv) in DMF (10 mL) was added triethylamine (1.26 g, 12.48 mmol, 2.50 equiv) and 1-bromo-2-(2-bromoethoxy)ethane (1.4 g, 6.04 mmol, 1.20 equiv). The resulting solution was stirred overnight at 70° C. The resulting solution was diluted with ethyl acetate (100 mL), washed with brine (100 mL), dried over anhydrous sodium sulfate and concentrated under vacuum to give 1.2 g (crude) of tert-butyl N-[4-(morpholin-4-yl)cyclohexyl]carbamate as a light yellow solid. MS (ES): m/z 285 (M+H)+.

reactant | tert-butyl N-(4-aminocyclohexyl)carbamate | 4.99 mmol, 1.07 g, 1.00 equiv | NC1CCC(CC1)NC(OC(C)(C)C)=O | C11H22N2O2
reactant | triethylamine | 12.48 mmol, 1.26 g, 2.50 equiv | C(C)N(CC)CC | C6H15N
reactant | 1-bromo-2-(2-bromoethoxy)ethane | 6.04 mmol, 1.4 g, 1.20 equiv | BrCCOCCBr | C4H8Br2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl N-[4-(morpholin-4-yl)cyclohexyl]carbamate | 1.2 g | N1(CCOCC1)C1CCC(CC1)NC(OC(C)(C)C)=O | C15H28N2O3
